US05523278
Preparation of Methyl 6-fluoro-1,2-benzisoxazole-3-acetate
Hydrogen chloride gas is bubbled into a cold (ice/water bath) solution of 6-fluoro-1,2-benzisoxazole-3-acetic acid (13.7 g, 0.0702 mol) in methanol over a 15 minute period. The reaction mixture is concentrated in vacuo to obtain a brown-orange solid. Flash column chromatography of the solid using silica gel and methylene chloride gives the title product as a white solid, mp 60°-61° C.

reactant | Hydrogen chloride | Cl | ClH
reactant | 6-fluoro-1,2-benzisoxazole-3-acetic acid | 0.0702 mol, 13.7 g | FC1=CC2=C(C(=NO2)CC(=O)O)C=C1 | C9H6FNO3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | Methyl 6-fluoro-1,2-benzisoxazole-3-acetate | FC1=CC2=C(C(=NO2)CC(=O)OC)C=C1 | C10H8FNO3
